US07595325B2
1B. 5-Bromo4-chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine
N-Bromosuccinimide (165 g, 926 mmol) was added to a solution of 4-Chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine (151 g, 772 mmol) in CH2Cl2 (1 L). After 12 h the reaction was quenched with saturated aqueous NaHCO3 (500 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×500 mL). The combined organic layers were washed with water (3×500 mL) and brine (1×500 mL), dried (Na2SO4), filtered, and concentrated in vacuo to afford the title compound as a white solid (198 g, 94%). MS: 275.5 (MH+); HPLC Rf: 5.99 min. (HPLC method 4).

reactant | N-Bromosuccinimide | 926 mmol, 165 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-Chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine | 772 mmol, 151 g | ClC=1C2=C(N=CN1)N(C=C2)C(C)C | C9H10ClN3
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | 5-Bromo4-chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine | 198 g, 94% | BrC1=CN(C=2N=CN=C(C21)Cl)C(C)C | C9H9BrClN3
